US05217645
5.0 g (28.68 mM) of butyldimethyl-3-hydroxypropylsilane was added 50 ml of pyridine, followed by stirring. To the mixture, 5.4 g (28.32 mM) of p-toluenesulfonyl chloride was added under cooling on an ice bath, followed by stirring for 0.5 hour and further stirring for 4 hours at room temperature. After the reaction, the reaction mixture was poured into water, acidified with hydrochloric acid (pH≈2) and extracted with ethyl acetate, followed by washing with water and drying with anhydrous magnesium sulfate. The magnesium sulfate in the resultant mixture was filtered off and the filtrate was condensed into a solid to obtain 3-(butyldimethylsilyl)propyl p-toluenesulfonate (Yield: 81.7 %).

reactant | butyldimethyl-3-hydroxypropylsilane | 28.68 mM, 5.0 g | C(CCC)[Si](CCCO)(C)C | C9H22OSi
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 28.32 mM, 5.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | pH≈2 | Cl | ClH
solvent | water | O | H2O
product | 3-(butyldimethylsilyl)propyl p-toluenesulfonate | Yield: 81.7 % | C1(=CC=C(C=C1)S(=O)(=O)OCCC[Si](C)(C)CCCC)C | C16H28O3SSi
